US06933387B2
b) 2-[(2-Bromo-3-methyl-phenyl)-hydrazono]-propionic acid ethyl ester
The title compound, ISP-MS: m/e=299.3 and 301.3 (M+H+), was prepared in accordance with the general method of example 25b) from (2-bromo-3-methyl-phenyl)-hydrazine and ethyl pyruvate.

reactant | (2-bromo-3-methyl-phenyl)-hydrazine | BrC1=C(C=CC=C1C)NN | C7H9BrN2
reactant | ethyl pyruvate | C(C(=O)C)(=O)OCC | C5H8O3
product | 2-[(2-Bromo-3-methyl-phenyl)-hydrazono]-propionic acid ethyl ester | C(C)OC(C(C)=NNC1=C(C(=CC=C1)C)Br)=O | C12H15BrN2O2
